US07700640B2
3-[(1S)-2-tert-Butoxy-1-methylethoxy]-5-[4-(methylsulfonyl)phenoxy]benzoic acid
3-[(1S)-2-tert-Butoxy-1-methylethoxy]-5-[4-(methylsulfonyl)phenoxy]benzonitrile (23.7 mmol; 9.56 g) was dissolved in ethanol (95.60 ml), and transferred to a 250 ml round bottomed flask, using ethanol (5 ml) to wash the residual solid from the flask. Water (6.25 ml) and sodium hydroxide (118.5 mmol; 6.30 ml) was added and the reaction was heated to reflux for 18 hours. The ethanol was removed in vacuo. The residual yellow suspension was dissolved in MTBE (162.5 ml) and water (162.5 ml). The two layers were separated, the MTBE layer was discarded and the aqueous layer was acidified with 2M HCl (100 ml). The aqueous layer was extracted twice with MTBE (162.5 ml). The organic extracts were combined and dried with magnesium sulfate, the MTBE was removed in vacuo, to give the desired product (7.0 g, 69.9% yield).

reactant | 3-[(1S)-2-tert-Butoxy-1-methylethoxy]-5-[4-(methylsulfonyl)phenoxy]benzonitrile | 23.7 mmol, 9.56 g | C(C)(C)(C)OC[C@@H](OC=1C=C(C#N)C=C(C1)OC1=CC=C(C=C1)S(=O)(=O)C)C | C21H25NO5S
reactant | Water | 6.25 ml | O | H2O
reactant | sodium hydroxide | 118.5 mmol, 6.30 ml | [OH-].[Na+]
solvent | ethanol | 95.60 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-[(1S)-2-tert-Butoxy-1-methylethoxy]-5-[4-(methylsulfonyl)phenoxy]benzoic acid | 7.0 g, 69.9% yield | C(C)(C)(C)OC[C@@H](OC=1C=C(C(=O)O)C=C(C1)OC1=CC=C(C=C1)S(=O)(=O)C)C | C21H26O7S
